US04036970
1-[2',3'-Bis(4"-chlorophenylthio)propyl]imidazole nitrate (2.3 g.) in 100 ml. of dichloromethane is shaken with excess dilute potassium carbonate solution until the salt is completely dissolved. The organic layer is then separated, washed twice with water, dried over magnesium sulfate and evaporated to yield 1-[2',3'-bis(4"-chlorophenylthio)propyl]-imidazole as a mobile gum.

reactant | 1-[2',3'-Bis(4"-chlorophenylthio)propyl]imidazole nitrate | 2.3 g | [N+](=O)(O)[O-].ClC1=CC=C(C=C1)SC(CN1C=NC=C1)CSC1=CC=C(C=C1)Cl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[2',3'-bis(4"-chlorophenylthio)propyl]-imidazole | ClC1=CC=C(C=C1)SC(CN1C=NC=C1)CSC1=CC=C(C=C1)Cl | C18H16Cl2N2S2
